US07253281B2
b) (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester
Sodium hydride (0.75 g, 17 mmol) was suspended in N,N-dimethylformamide (15 mL) and a solution of 6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester (3.6 g, 14 mmol) in N,N-dimethylformamide (15 mL) was added with cooling at 5° C. After 1 h (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester (4.0 g, 17 mmol) was added and the solution was allowed to reach room temperature over the weekend. The solution was partitioned between ice water (600 mL) and diethylether (2-×250 mL). The organic layer was washed with ice water and brine, dried (MgSO4), and evaporated. Chromatography on silica gel with n-hexane/diethylether (4:1) yielded the title product as yellow oil (5.1 g, 88%). ISP-MS: m/e=415.3 (M+H+), αD20=−29.6

reactant | Sodium hydride | 17 mmol, 0.75 g | [H-].[Na+]
reactant | 6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester | 14 mmol, 3.6 g | C(C)OC(=O)C=1NC2=CC(=CC=C2C1)C(F)(F)F | C12H10F3NO2
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 17 mmol, 4.0 g | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester | 5.1 g, 88% | C(C)OC(=O)C=1N(C2=CC(=CC=C2C1)C(F)(F)F)[C@@H](CNC(=O)OC(C)(C)C)C | C20H25F3N2O4
